US07138533B2
9-(6-Bromohexanoyl)-2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one
Using 2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one and 6-bromohexanoyl chloride according to the same method as that of Reference Example 1, the title compound (3.90 g) was obtained as colorless crystals having a melting point of 52–53° C.

reactant | 2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one | C1CCN2C3=C(C=CC=C13)CCC2=O | C12H13NO
reactant | 6-bromohexanoyl chloride | BrCCCCCC(=O)Cl | C6H10BrClO
product | 9-(6-Bromohexanoyl)-2,3,6,7-tetrahydro-1H,5H-pyrido[3,2,1-ij]quinolin-5-one | 3.90 g | BrCCCCCC(=O)C=1C=C2CCCN3C2=C(C1)CCC3=O | C18H22BrNO2
